US09056867B2
3-(Piperidin-1-ylmethyl)-1H-pyrazol-5-amine
NaH (0.234 g, 5.84 mmol) in dry toluene (5 ml) was heated to 80° C. A mixture of acetonitrile (0.229 ml, 4.38 mmol), ethyl 1-piperidineacetate (0.5 g, 2.92 mmol) and toluene (3 ml) was added dropwise to the hot reaction mixture. The mixture was stirred at 80° C. for 1.5 hours and after cooling to RT, quenched by the addition of water (6 ml). Hydrazine hydrate (0.142 ml, 2.92 mmol) was added and reaction mixture reheated to 80° C. for 3 hours. The reaction mixture was acidified with 2N HCl (aq.) to pH 2 and loaded onto a SCX-2 cartridge eluting with MeOH followed by 7M NH3 in MeOH. The methanolic ammonia fractions were concentrated in vacuo to afford an oil. 4N HCl in dioxane (15 ml) was added to the yellow oil and the resulting suspension was filtered and washed with iso-hexane to yield the title compound.

reactant | NaH | 5.84 mmol, 0.234 g | [H-].[Na+]
reactant | acetonitrile | 4.38 mmol, 0.229 ml | C(C)#N | C2H3N
reactant | ethyl 1-piperidineacetate | 2.92 mmol, 0.5 g | N1(CCCCC1)CC(=O)OCC | C9H17NO2
reactant | Hydrazine hydrate | 2.92 mmol, 0.142 ml | O.NN
reactant | HCl | 2N | Cl | ClH
reactant | HCl | 4N | Cl | ClH
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
solvent | dioxane | 15 ml | O1CCOCC1 | C4H8O2
solvent | toluene | 3 ml | C1(=CC=CC=C1)C | C7H8
product | 3-(Piperidin-1-ylmethyl)-1H-pyrazol-5-amine | N1(CCCCC1)CC1=NNC(=C1)N | C9H16N4
